US08957070B2
1-(3-Methyl-7-nitro-1H-indol-2-yl)propan-1-one
A mixture of hexane-3,4-dione (2-nitrophenyl)hydrazone (3.13 g) and polyphosphoric acid (50 g) was stirred at 80° C. overnight. The reaction mixture was poured into ice water, neutralized with 50% aqueous sodium hydroxide solution, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography and the title compound (0.29 g, yield 10%) was obtained as yellow crystals from a fraction eluted with ethyl acetate-hexane (1:2, volume ratio). melting point>164° C. (decomposition).

reactant | hexane-3,4-dione (2-nitrophenyl)hydrazone | 3.13 g | [N+](=O)([O-])C1=C(C=CC=C1)NN=C(CC)C(CC)=O | C12H15N3O3
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-(3-Methyl-7-nitro-1H-indol-2-yl)propan-1-one | 0.29 g, yield 10% | CC1=C(NC2=C(C=CC=C12)[N+](=O)[O-])C(CC)=O | C12H12N2O3
